US07790770B2
To a suspension of NaH (60% in oil, 0.24 g, 6 mmol) in dry THF (25 mL) under nitrogen was added 15-crown-5 (0.06 g). The suspension was cooled in an ice bath. Bis(3-(trifluoromethoxy)phenyl)methanone (2.10 g, 6 mmol) and diethyl benzylphosphonate (1.37 g, 6 mmol) were dissolved in THF (12 mL) and added to the suspension. The reaction mixture was stirred at ice bath temperature for 15 min, allowed to warm to rt and stirred overnight. The reaction mixture was poured into water and extracted with ether (2×). The combined ether layers were washed with 10% NaHSO3, sat. NaCl, dried over K2CO3, filtered and purified by ISCO using a gradient of 0-4% EtOAc/hexanes as eluent to give 3,3′-(2-phenylethene-1,1-diyl)bis((trifluoromethoxy)benzene) as a colorless oil (1.34 g, 53% yield). 1H NMR (400 MHz, CDCl3) δ ppm 7.33 (m, 2H), 7.2-7.1 (m, 8H), 7.04 (s, 1H), 7.0-6.97 (m, 3H).

reactant | NaH | 6 mmol, 0.24 g | [H-].[Na+]
reactant | Bis(3-(trifluoromethoxy)phenyl)methanone | 6 mmol, 2.10 g | FC(OC=1C=C(C=CC1)C(=O)C1=CC(=CC=C1)OC(F)(F)F)(F)F | C15H8F6O3
reactant | diethyl benzylphosphonate | 6 mmol, 1.37 g | C(C1=CC=CC=C1)P(OCC)(OCC)=O | C11H17O3P
reactant | water | O | H2O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 12 mL | C1CCOC1 | C4H8O
catalyst | 15-crown-5 | 0.06 g | C1COCCOCCOCCOCCO1 | C10H20O5
product | 3,3′-(2-phenylethene-1,1-diyl)bis((trifluoromethoxy)benzene) | 1.34 g, 53% yield | C1(=CC=CC=C1)C=C(C=1C=C(C=CC1)OC(F)(F)F)C=1C=C(C=CC1)OC(F)(F)F | C22H14F6O2
